US07767675B2
Step 3. N-[(1S)-1-(azetidin-1-ylcarbonyl)-2,2-dimethylpropyl]-2-fluoro-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]benzamide
N,N-Diisopropylethylamine (14 μL, 0.084 mmol) was added to a mixture of (2S)-2-(2-fluoro-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]benzoylamino)-3,3-dimethylbutanoic acid (15 mg, 0.028 mmol), azetidine hydrochloride (3.9 mg 0.042 mmol), and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (18 mg, 0.042 mmol) in N,N-dimethylformamide (0.5 mL). After stirring at RT overnight, the reaction mixture was purified by RP-HPLC (pH 10) to afford the desired product. LCMS: (M+H)=577.2.

reactant | N,N-Diisopropylethylamine | 0.084 mmol, 14 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (2S)-2-(2-fluoro-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]benzoylamino)-3,3-dimethylbutanoic acid | 0.028 mmol, 15 mg | FC1=C(C(=O)N[C@H](C(=O)O)C(C)(C)C)C=CC(=C1)C=1C=NC=2N(C1)C(=CN2)C2(CC2)C=2C=C1C=CC=NC1=CC2 | C31H28FN5O3
reactant | azetidine hydrochloride | 0.042 mmol, 3.9 mg | Cl.N1CCC1
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.042 mmol, 18 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | N-[(1S)-1-(azetidin-1-ylcarbonyl)-2,2-dimethylpropyl]-2-fluoro-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]benzamide | N1(CCC1)C(=O)[C@H](C(C)(C)C)NC(C1=C(C=C(C=C1)C=1C=NC=2N(C1)C(=CN2)C2(CC2)C=2C=C1C=CC=NC1=CC2)F)=O | C34H33FN6O2
